US03962224
p-Nitrobenzyl α-amino-diphenylphosphonoacetate
A solution of p-nitrobenzyl N-benzylidene-α-aminodiphenylphosphonoacetate (16.43 g) in ethyl ether (100 ml) is added dropwise over 30 minutes to a stirring solution of p-toluenesulfonic acid monohydrate (6.48 g) in ethyl ether (150 ml). Cyclohexane (100 ml) is added to the mixture and the solvents are decanted from the precipitate. The precipitate is washed with more 2:1 ethyl ether-cyclohexane which is again decanted off. The precipitate is treated with 1 M aqueous dipotassium hydrogen phosphate (60 ml) and extracted with four portions of methylene chloride. The methylene chloride solution is dried over magnesium sulfate, filtered, and evaporated to give p-nitrobenzyl α-aminodiphenylphosphonacetate.

reactant | p-nitrobenzyl N-benzylidene-α-aminodiphenylphosphonoacetate | 16.43 g | C(C1=CC=CC=C1)=NC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C28H23N2O7P
reactant | p-toluenesulfonic acid monohydrate | 6.48 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Cyclohexane | 100 ml | C1CCCCC1 | C6H12
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | p-Nitrobenzyl α-amino-diphenylphosphonoacetate | NC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C21H19N2O7P
